US07935815B2
Synthesis of (8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridin-8-yl)methanol
Paraformaldehyde (186 mg) and sodium hydride (containing 40% of mineral oil, 28.7 mg) were added to a solution of 8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine synthesized by the method in Examples 1 and 2 (154 mg) in DMF (3 mL), and the reaction solution was stirred at room temperature for 30 minutes. Thereafter, ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 204 mg of the title compound. The property value of the compound is as follows.

reactant | Paraformaldehyde | 186 mg | C=O | CH2O
reactant | sodium hydride | 28.7 mg | [H-].[Na+]
reactant | 8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | FC=1C=C(C=CC1)C1C=2N(CCC1)N=C(N2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C25H24FN5O
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8-(3-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridin-8-yl)methanol | 204 mg | FC=1C=C(C=CC1)C1(C=2N(CCC1)N=C(N2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)CO | C26H26FN5O2
